US04670439
Ethyl 7-{3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propoxy}3-methyl-2H-1-benzopyran-2-one-4-carboxylate
ethyl 7-{3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propoxy}-3-phenylmethyl-2H-1-benzopyran-2-one-4-carboxylate from ethyl 7-hydroxy-3-phenylmethyl-2H-1-benzopyran-2-one-4-carboxylate and 3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propyl chloride.

reactant | ethyl 7-{3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propoxy}-3-phenylmethyl-2H-1-benzopyran-2-one-4-carboxylate | ClC1=CC=C(C=C1)CN1CCN(CC1)CCCOC1=CC2=C(C(=C(C(O2)=O)CC2=CC=CC=C2)C(=O)OCC)C=C1 | C33H35ClN2O5
reactant | ethyl 7-hydroxy-3-phenylmethyl-2H-1-benzopyran-2-one-4-carboxylate | OC1=CC2=C(C(=C(C(O2)=O)CC2=CC=CC=C2)C(=O)OCC)C=C1 | C19H16O5
reactant | 3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propyl chloride | ClC1=CC=C(C=C1)CN1CCN(CC1)CCCCl | C14H20Cl2N2
product | Ethyl 7-{3-{4-[(4-chlorophenyl)-methyl]-1-piperazinyl}-propoxy}3-methyl-2H-1-benzopyran-2-one-4-carboxylate | ClC1=CC=C(C=C1)CN1CCN(CC1)CCCOC1=CC2=C(C(=C(C(O2)=O)C)C(=O)OCC)C=C1 | C27H31ClN2O5
